US07384950B2
c) Ethyl 1,2,3,4-tetrahydro-3-methyl-1-(isobutyl)-2,4-dioxothieno[2,3-d]pyrimidine-5-carboxylate
6-Mercapto-3-methyl-1-(isobutyl)-pyrimidine-2,4(1H,3H)-dione (49.5 g) was dissolved in dry DMF (900 ml) and ethyl bromopyruvate (30 ml) was added, and then with stirring anhydrous potassium carbonate (15.95 g) was also added. The mixture was stirred at room temperature for 5 h, and then poured into water (5 L). The aqueous solution was acidified with dil hydrochloric acid, and then extracted thoroughly with ethyl acetate. The organic extract was dried (MgSO4) and evaporated at high vacuum to leave a semisolid mass. A portion of this semisolid mass (24 g) was dissolved in methylene chloride (500 ml) and cooled in an ice-bath under an atmosphere of nitrogen. With efficient stirring titanium tetrachloride (13.5 ml) was slowly added. The reaction mixture was stirred 1 hr in the ice-bath and then 3 hr at room temperature. The reaction mixture was poured slowly into vigorously stirred ice-water (1.5 L), and then the resulting suspension was extracted into methylene chloride. After drying the organic solvent was removed in vacuo, and the residue was chromatographed (SiO2/1:1 ethyl acetate-isohexane) to afford the sub-title compound as a pale yellow solid 15 g. δ 1HCDCl3 1.0 (6H, d), 1.4 (3H, t), 2.31-2.45 (1H, m), 3.4 (3H, s), 3.8 (2H, d), 4.4 (2H, q), 7.28 (1H, s).

reactant | 6-Mercapto-3-methyl-1-(isobutyl)-pyrimidine-2,4(1H,3H)-dione | 49.5 g | SC1=CC(N(C(N1CC(C)C)=O)C)=O | C9H14N2O2S
reactant | ethyl bromopyruvate | 30 ml | BrCC(C(=O)OCC)=O | C5H7BrO3
reactant | potassium carbonate | 15.95 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 5 L | O | H2O
solvent | DMF | 900 ml | CN(C)C=O | C3H7NO
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
catalyst | titanium tetrachloride | 13.5 ml | [Ti](Cl)(Cl)(Cl)Cl
product | Ethyl 1,2,3,4-tetrahydro-3-methyl-1-(isobutyl)-2,4-dioxothieno[2,3-d]pyrimidine-5-carboxylate | 15 g | CN1C(N(C2=C(C1=O)C(=CS2)C(=O)OCC)CC(C)C)=O | C14H18N2O4S
